US06949543B2
Ethanol (30 ml) solution of ethyl {4-[N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-(4-fluorobenzoyl)amino]phenoxy}acetate (1.3 g) was mixed with 1 M sodium hydroxide aqueous solution (2.4 ml) and then stirred at room temperature overnight. After concentration of the reaction solution, the thus obtained crude product was recrystallized from ethanol to obtain 680 mg of sodium (4-[N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-(4-fluorobenzoyl)amino]phenoxy)acetate (white crystals).

reactant | ethyl {4-[N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-(4-fluorobenzoyl)amino]phenoxy}acetate | 1.3 g | NC=1SC=C(N1)C1=CC=C(C=C1)NC(=O)CN(C(C1=CC=C(C=C1)F)=O)C1=CC=C(OCC(=O)OCC)C=C1 | C28H25FN4O5S
reactant | sodium hydroxide | 1 M, 2.4 ml | [OH-].[Na+]
solvent | Ethanol | 30 ml | C(C)O | C2H6O
product | sodium (4-[N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-(4-fluorobenzoyl)amino]phenoxy)acetate | 680 mg | NC=1SC=C(N1)C1=CC=C(C=C1)NC(=O)CN(C(C1=CC=C(C=C1)F)=O)C1=CC=C(OCC(=O)[O-])C=C1.[Na+] | InChI=1S/C26H21FN4O5S.Na/c27-18-5-1-17(2-6-18)25(35)31(20-9-11-21(12-10-20)36-14-24(33)34)13-23(32)29-19-7-3-16(4-8-19)22-15-37-26(28)30-22;/h1-12,15H,13-14H2,(H2,28,30)(H,29,32)(H,33,34);/q;+1/p-1
